US09238631B2
c) (4R)-4-(4-hydroxybenzyl)-L-glutamic acid
Di-tert-butyl 4-(4-hydroxybenzyl)-L-glutamate (27 mg, 58 μmol) was dissolved in trifluoroacetic acid (1 ml) and stirred at room temperature for 2 h. The mixture was then taken up in toluene and concentrated under reduced pressure. The residue was purified by preparative HPLC (RP-18; solvents: acetonitrile (+0.1% trifluoroacetic acid), water (+0.1% trifluoroacetic acid); gradient: 30%->40% acetonitrile (20 min)).

reactant | Di-tert-butyl 4-(4-hydroxybenzyl)-L-glutamate | 58 μmol, 27 mg | OC1=CC=C(CC(C[C@H](N)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1 | C20H31NO5
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (4R)-4-(4-hydroxybenzyl)-L-glutamic acid | OC1=CC=C(C[C@H](C[C@H](N)C(=O)O)C(=O)O)C=C1 | C12H15NO5
